US04398938
Preparation of 1-[3-(2-Chloro-4-Trifluoromethylphenoxy)-6-Nitrobenzoyl] Pyrrolidin-2-one
Pyrrolidin-2-one (7.60 grams; 0.02 mol), triethylamine (2.0 grams; 0.02 mol) and toluene (50 mol) were placed in a three-necked, glass reaction flask equipped with stirrer, thermometer, addition funnel and drying tube. 3-(2-Chloro-4-trifluoromethylphenoxy)-6-nitrobenzoylchloride (7.60 grams; 0.02 mol) in toluene (10 ml) was added to the mixture in the flask. The mixture, after being stirred overnight at room temperature, was washed with water, dried over sodium sulfate and evaporated to give a dark oil. The oil was chromatographed using silica gel into two fractions, the first using toluene as eluant and the second fraction using an equal mixture of toluene and ethyl acetate gave the desired product as a brown oil which solidified upon standing. Trituration with isopropyl ether resulted in white crystals, melting point 88° C. This product analyzed as follows:

reactant | Pyrrolidin-2-one | 0.02 mol, 7.60 grams | N1C(CCC1)=O | C4H7NO
reactant | triethylamine | 0.02 mol, 2.0 grams | C(C)N(CC)CC | C6H15N
reactant | 3-(2-Chloro-4-trifluoromethylphenoxy)-6-nitrobenzoylchloride | 0.02 mol, 7.60 grams | ClC1=C(OC=2C=C(C(=O)Cl)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mol | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(2-Chloro-4-Trifluoromethylphenoxy)-6-Nitrobenzoyl] Pyrrolidin-2-one | ClC1=C(OC=2C=C(C(=O)N3C(CCC3)=O)C(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H12ClF3N2O5
